US07709509B2
To a solution of 50 mg of 3-{4-[4-but-3-enyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-4H-[1,2,4]oxadiazol-5-one in 2 ml of tetrahydrofuran at 0° C. was added 0.3 ml of a 2M solution of borane-methylsulfide complex in tetrahydrofuran. The resulting mixture was stirred allowing it to warm up to room temperature than stirred at room temperature for 30 minutes. After cooling to 0° C., 0.1 ml of a 5M aqueous solution of sodium hydroxide and 0.1 ml of a 30% aqueous solution of hydrogen peroxide were added. The resulting mixture was stirred allowing it to warm up to room temperature over 1 hour. It was then poured into water, extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient of dichloromethane/methanol from 100/0 to 95/5) followed by crystallization from dichloromethane/pentane to give 28 mg of 3-{2-chloro-4-[4-(4-hydroxy-butyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | 3-{4-[4-but-3-enyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-4H-[1,2,4]oxadiazol-5-one | 50 mg | C(CC=C)C=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C23H17ClF3N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-{2-chloro-4-[4-(4-hydroxy-butyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 28 mg | ClC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCCO)C1=NOC(N1)=O | C23H19ClF3N3O4S
